US04686237
1,3-Dimethoxy-2-naphthoyl chloride
The product is prepared from 9.28 g. (40 mmoles) of 1,3-dimethoxy-2-naphthoic acid and 10.15 g. (80 mmoles) of oxalyl chloride by the process of Step 3 of Example 1.

reactant | 1,3-dimethoxy-2-naphthoic acid | 40 mmoles | COC1=C(C(=CC2=CC=CC=C12)OC)C(=O)O | C13H12O4
reactant | oxalyl chloride | 80 mmoles | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1,3-Dimethoxy-2-naphthoyl chloride | COC1=C(C(=CC2=CC=CC=C12)OC)C(=O)Cl | C13H11ClO3
